US08912329B2
1-(4-(Pyridin-2-ylmethyl)piperazin-1-yl)butan-1-one
To a solution of 1 eq 1-(pyridin-2-ylmethyl)piperazine hydrochloride in dry dichloromethane are added 1.5 eq butanoyl chloride and 2.5 eq triethylamine. After stirring for 6 hours at room temperature the solvent is removed in vacuo and the residue re-dissolved in ethyl acetate. The organic solution is subsequently washed with 1 M KHSO4, 5% NaHCO3 and brine. After drying over Na2SO4, ethyl acetate is removed in vacuo and the crude product is purified by column chromatography.

reactant | 1-(pyridin-2-ylmethyl)piperazine hydrochloride | 1 eq | Cl.N1=C(C=CC=C1)CN1CCNCC1
reactant | butanoyl chloride | 1.5 eq | C(CCC)(=O)Cl | C4H7ClO
reactant | triethylamine | 2.5 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-(Pyridin-2-ylmethyl)piperazin-1-yl)butan-1-one | N1=C(C=CC=C1)CN1CCN(CC1)C(CCC)=O | C14H21N3O
